US07662771B2
Add sodium hydride (1.82 g, 38 mmol) to a suspension of 4-(2-isopropoxyphenyl)-1H-imidazole (5.01 g, 25 mmol) in THF (125 mL) at 0° C. under nitrogen, and warm the mixture to room temperature and stir for 1 hour. Cool the mixture to 0° C. and add 8-bromooctanoic acid methyl ester (5.98 g, 25 mmol) and tetra-n-butylammonium iodide (0.55 g, 1.5 mmol) and warm the mixture to room temperature to stir for 8 hours. Dilute the mixture with water (20 mL) and remove the solvent under reduced pressure. Dilute the residue with ethyl acetate (300 mL), wash with water (100 mL) and brine (100 mL), dry over sodium sulfate, and remove the solvent under reduced pressure to provide 8-[4(2-isopropoxyphenyl)imidazol-1-yl]octanoic acid methyl ester (5.16 g, 57%), which is used in the next step without further purification.

reactant | sodium hydride | 38 mmol, 1.82 g | [H-].[Na+]
reactant | 4-(2-isopropoxyphenyl)-1H-imidazole | 25 mmol, 5.01 g | C(C)(C)OC1=C(C=CC=C1)C=1N=CNC1 | C12H14N2O
reactant | 8-bromooctanoic acid methyl ester | 25 mmol, 5.98 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | THF | 125 mL | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 1.5 mmol, 0.55 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 20 mL | O | H2O
product | 8-[4(2-isopropoxyphenyl)imidazol-1-yl]octanoic acid methyl ester | 5.16 g, 57% | COC(CCCCCCCN1C=NC(=C1)C1=C(C=CC=C1)OC(C)C)=O | C21H30N2O3
